Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ Yo male with history of atrial fibrillation not on 
anticoagulation, CAD s/p 2 stents to the LAD in ___ (expedition 
2.75 mm X 12mm and 3.5 mm X 18 mm) presenting with chest 
discomfort over that began about 3 months ago. Symptoms first 
began three months ago when he had chest pain with radiation to 
his neck and left arm that lasted for 5 minutes. For the last 
several months he has had chest discomfort at rest and with 
exertion and general malaise. His chest discomfort is associated 
with his heart pounding and shortness of breath and tends to 
occur more so with exertion. Chest pain worsened over the last 2 
days with exertion and noted to be worse today with grocery 
shopping, radiation to this neck, associated with a flush 
feeling and per wife looked like he was about to pass out.
  On aspirin 81 mg and simvastatin. Has SL nitro but has not 
used it. Brother w/ premature coronary disease. No bleeding 
issues. He took 162 mg aspirin.

In the ED initial vitals were:  
Pulse: 63. Respiratory Rate: 18. Blood-pressure: 158/98. Oxygen 
Saturation: 100% room air; Normal.

EKG:  afib, bradycardia, ventricular rate 50-60, normal axis, no 
NSSSTTW

Labs/studies notable for: 
Trop <0.01 Ca 8.9 Mg 1.9 ___ 11.2 INR 1.0 PTT 39.5 WBC 6.4 
Hemoglobin 14.8 Pla 170, Na 139 K 4.9 Cl 100 Bicarbonate 27 Gluc 
94 BUN 19 Cr 1.1
 
Patient was given:
Aspirin 162 mg at ED
 

On the floor patient denies chest discomfort, shortness of 
breath.  

 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: 2 stents in proximal LAD 
___ 
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
 atrial fibrillation

 
Social History:
___
Family History:
Two brothers premature coronary artery disease
Father - ___ fatal MI
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:   
VS:  98.1   155 / 78   62   18   98 Ra 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVD  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Irregularly irregular No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.   
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 01:57PM BLOOD WBC-6.7 RBC-4.34* Hgb-14.1 Hct-40.9 
MCV-94 MCH-32.5* MCHC-34.5 RDW-12.9 RDWSD-44.2 Plt ___
___ 01:57PM BLOOD Neuts-48.0 ___ Monos-8.5 Eos-1.6 
Baso-0.4 Im ___ AbsNeut-3.19 AbsLymp-2.76 AbsMono-0.57 
AbsEos-0.11 AbsBaso-0.03
___ 01:57PM BLOOD Plt ___
___ 01:57PM BLOOD Glucose-95 UreaN-18 Creat-1.1 Na-140 
K-5.1 Cl-102 HCO3-25 AnGap-13
___ 01:57PM BLOOD CK(CPK)-169
___ 01:57PM BLOOD CK-MB-4 proBNP-315*

=======
IMAGING
=======
___ Nuclear Stress Test
IMPRESSION:  
 
1.  No focal myocardial perfusion defects. 
 
2.  Mildly enlarged left ventricular cavity size with no focal 
wall motion
abnormalities and an ejection fraction of 54%.

___ Echocardiogram
Conclusions
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is at least 15 mmHg. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (3D LVEF = 58 %). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size, and regional/global systolic function. 
Normal right ventricular cavity size and systolic function. Mild 
mitral regurgitation. Mild tricuspid regurgitation. 

==============
DISCHARGE LABS
==============

___ 06:13AM BLOOD ___ PTT-33.0 ___
___ 06:13AM BLOOD Glucose-91 UreaN-17 Creat-1.0 Na-142 
K-4.9 Cl-104 HCO3-25 AnGap-13
___ 06:13AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.___ Yo male with history of afib not on anticoagulation, CAD s/p 
2 stents to the LAD in ___ (xpedition 2.75 mm X 12mm and 3.5 mm 
X 18 mm) presenting with chest discomfort over the last few 
months at rest and with exertion, associated with feeling like 
his chest was pounding. Exercise MIBI and echo with no 
concerning findings. 

====================
ACTIVE ISSUES: 
====================
#Coronary artery disease:
#Unstable Angina: No EKG changes initially or troponin 
elevation, but chest pain at rest and exertion consistent with 
unstable angina. His description of his chest pounding when he 
gets the discomfort made it possible that his symptoms were 
related to afib with rapid ventricular rate instead of coronary 
artery disease. However, he is high risk given hx of CAD with 
two stents, and repeat EKG had some non-specific TW changes. 
Thus he got aspirin, and was started on heparin gtt. He had no 
chest pain during admission, and he had no evidence of afib w/ 
RVR on tele. Exercise MIBI was negative. Echo showed LVH, normal 
EF, no wall motion abnormalities. Continued home aspirin 81 mg, 
started atorvastatin 80 mg, started amlodipine 5 mg for blood 
pressure and angina symptoms. 

#Paroxysmal Atrial fibrillation: CHADSVASC = 2. Not on AC 
previously perhaps because of low-risk. Patient denies any 
history of bleeding. Not on rate control at home. While in 
hospital in and out of afib with rates consistently 50-60s. 

===================
TRANSITIONAL ISSUES
===================
- Pt was started on amlodipine for management of angina and 
blood pressure. Pleasure ensure both are well controlled and 
titrate regimen as needed.
- Pt is not anticoagulated for his AFib because of borderderline 
CHA2DSVasc of 2. Please continue to monitor for changing risk 
factors and need for anticoagulation.

#CONTACT: ___ 
Relationship: WIFE 
Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Angina

Secondary Diagnoses: Hyperlipidemia, Hypetension, CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___! You were admitted because you had 
chest pain at rest and during exercise. While you were in the 
hospital we performed a stress test and heart ultrasound that 
showed no signs that there were concerning blockages in your 
heart vessels and that your heart structure was at your normal 
baseline. 

Please take your medications as listed in discharge summary and 
follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  
 
Followup Instructions:
___